US08895745B2
1-(3-{7-[6-Oxo-1-(3-piperidin-1-yl-propyl)-1,6-dihydro-pyridin-3-yl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea hydrochloride
To 1-{3-[7-(6-Oxo-1,6-dihydro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea (0.12 g, 0.63 mmol) in DMF (1.5 ml) was added N-(3-chloropropyl)piperidine hydrochloride (0.125 g, 0.63 mmol), Cs2CO3 (0.32 g, 0.98 mmol) and NaI (0.095 g, 0.63 mmol). The reaction was heated at 80° C. for 48 hours then partitioned between EtOAc and water, the organic layer was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC to give the title compound (16 mg) MS: [M+H]+553

reactant | 1-{3-[7-(6-Oxo-1,6-dihydro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 0.63 mmol, 0.12 g | O=C1C=CC(=CN1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C21H16F3N5O2
reactant | N-(3-chloropropyl)piperidine hydrochloride | 0.63 mmol, 0.125 g | Cl.ClCCCN1CCCCC1
reactant | Cs2CO3 | 0.98 mmol, 0.32 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 0.63 mmol, 0.095 g | [Na+].[I-]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 1-(3-{7-[6-Oxo-1-(3-piperidin-1-yl-propyl)-1,6-dihydro-pyridin-3-yl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea hydrochloride | 16 mg | Cl.O=C1C=CC(=CN1CCCN1CCCCC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | InChI=1S/C29H31F3N6O2.ClH/c30-29(31,32)20-34-28(40)35-24-7-4-6-22(16-24)25-18-33-26-17-21(10-15-38(25)26)23-8-9-27(39)37(19-23)14-5-13-36-11-2-1-3-12-36;/h4,6-10,15-19H,1-3,5,11-14,20H2,(H2,34,35,40);1H
